US06716859B2
A solution of N-bromosuccinimide, dibromomethane (3.56 g, 20 mmol) and methyl-2-methylbenzoate (3.04 g, 20 mmol) in 30 mL CHCl3 was refluxed for 4 h. The solvent was evaporated and the residue was purified by column chromatography, with EtOAc:hexanes, 1:5, as eluant, yielding (3.496 g, 76%) of 2-bromomethyl-benzoic acid methyl ester. A solution of 2-bromomethyl-benzoic acid methyl ester (368 mg, 2 mmol) and morpholine (174 mg, 2.0 mmol) in 8 mL DMF with 1 mL HCl (2 N) was refluxed overnight. The solvent was evaporated in vacuo and the residue was purified by column chromatography with EtOAc:hexanes, 1:4, yielding (180 mg, 38%) 2-(morpholin-4-ylmethyl)-benzoic acid methyl ester. The title compound was prepared from 2-(morpholin-4-ylmethyl)-benzoic acid methyl ester, hydrazine and then 3-trifluoromethyl-benzaldehyde in two steps by procedures similar to Example 29. 1H NMR (CDCl3): 8.46 (s, 1H), 8.02 (m, 2H), 7.96 (d, J=7.8 Hz, 1H), 7.45 (d, J=7.8 Hz, 1H), 7.54 (d, J=7.8 Hz, 1H), 7.45 (m, 2H), 7.22 (m, 1H), 3.82 (t, J=4.8 Hz, 4H), 2.64 (t, J=4.8 Hz, 4H).

reactant | 2-bromomethyl-benzoic acid methyl ester | 2 mmol, 368 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | morpholine | 2.0 mmol, 174 mg | N1CCOCC1 | C4H9NO
reactant | HCl | 2 N, 1 mL | Cl | ClH
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(morpholin-4-ylmethyl)-benzoic acid methyl ester | 180 mg, 38% | COC(C1=C(C=CC=C1)CN1CCOCC1)=O | C13H17NO3
